US06391887B1
4-Amino-8-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 8-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (240 mg, 1.08 mmol) in 7N methanolic ammonia solution (30 ml) is reacted to form 210 mg (95%) of product.

reactant | 8-fluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 1.08 mmol, 240 mg | FC1=CC=2C3C(C(NC2C=C1)=S)CCC3 | C12H12FNS
reactant | ammonia | 7N, 30 ml | N | H3N
product | 4-Amino-8-fluoro-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 210 mg, 95% | NC1=NC=2C=CC(=CC2C2C1CCC2)F | C12H13FN2
